Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
neck and arm pain
 
Major Surgical or Invasive Procedure:
___ C5-7

 
History of Present Illness:
___ presented to Dr. ___ office with complaints of 
neck and arm pain. After review of the patients history and 
physical examination in the office, as well as radiographic 
studies, it was determined they would be a good candidate for 
___ C5-7. The patient was in agreement with the plan and 
consent was obtained and signed.
 
Past Medical History:
allergies
GERD
hypertension
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
On examination the patient is well developed, well nourished, 
A&O x3 in NAD. AVSS.
Range of motion of the cervical spine is somewhat limited on 
flexion, extension and lateral rotation due to pain.
The patient is ambulating well with no assistance, wearing an 
aspen collar for support when OOB.
Gross motor examination reveals good strength throughout the 
bilateral upper extremities.
There is no hoffmans sign present. 
Sensation is intact throughout all affected dermatomes.
The anterior cervical incision is clean, dry and intact without 
erythema, edema or drainage.
The patient is voiding well without a foley catheter. The 
patient is tolerating a po diet without complaints of dysphagia.

 
Pertinent Results:
___ 05:55AM BLOOD WBC-16.6*# RBC-4.77 Hgb-12.9* Hct-39.3* 
MCV-82 MCH-27.0 MCHC-32.8 RDW-14.4 RDWSD-42.9 Plt ___
___ 05:55AM BLOOD Glucose-146* UreaN-22* Creat-0.9 Na-140 
K-4.1 Cl-102 HCO3-25 AnGap-17
___ 05:55AM BLOOD Calcium-8.9 Phos-3.7 Mg-1.___riefly, ___ was admitted to the ___ Spine Surgery 
Service and taken to the Operating Room on ___ for the above 
procedure.  Refer to the dictated operative note for further 
details.  The surgery was performed without complication, the 
patient tolerated the procedure well, and was transferred to the 
PACU in a stable condition.  TEDs/pneumoboots were used for 
postoperative DVT prophylaxis.  Intravenous antibiotics were 
continued for 24hrs postop per standard protocol. Initially, 
postop pain was controlled with IV pain medication. Diet was 
advanced as tolerated.  The patient was transitioned to oral 
pain medication when tolerating PO diet, and able to swallow 
safely. Post-operative labs were grossly stable.  Physical 
therapy was consulted for mobilization OOB to ambulate. An Aspen 
collar was provided for support and stability. Hospital course 
was otherwise unremarkable.  On the day of discharge the patient 
was afebrile with stable vital signs, comfortable on oral pain 
control and tolerating a regular/soft diet.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrocortisone Acetate Suppository 1 SUPP PR QHS:PRN 
constipation 
2. azelastine 137 mcg (0.1 %) nasal BID 
3. eszopiclone 3 mg oral QHS 
4. mometasone 50 mcg/actuation nasal DAILY 
5. Rosuvastatin Calcium 20 mg PO QPM 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Omeprazole 20 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Cetirizine 10 mg PO DAILY 
10. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN 
cough/wheeze 
11. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1. Cetirizine 10 mg PO DAILY 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Rosuvastatin Calcium 20 mg PO QPM 
6. Diazepam 5 mg PO Q6H:PRN spasm 
RX *diazepam [Valium] 5 mg 1 tab by mouth every six (6) hours 
Disp #*90 Tablet Refills:*0
7. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
8. HYDROcodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 

RX *hydrocodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
q4-6h Disp #*90 Tablet Refills:*0
9. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*60 Capsule Refills:*0
10. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN 
cough/wheeze 
11. Aspirin 81 mg PO DAILY 
12. azelastine 137 mcg (0.1 %) nasal BID 
13. eszopiclone 3 mg oral QHS 
14. Hydrocortisone Acetate Suppository 1 SUPP PR QHS:PRN 
constipation 
15. mometasone 50 mcg/actuation nasal DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervical spondylosis and disk degeneration.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
ACTIVITY: DO NOT lift anything greater than 10 lbs for 2 weeks. 

___ times a day you should go for a walk for ___ minutes as 
part of your recovery. You can walk as much as you can tolerate. 

You will be more comfortable if you do not sit or stand more 
than ~45 minutes without changing positions.

BRACE: You have been given a brace. This brace should be worn 
for comfort when you are walking. You may take it off when 
sitting in a chair or while lying in bed.

WOUND: Remove the external dressing in 2 days. If your incision 
is draining, cover it with a new dry sterile dressing. If it is 
dry then you may leave the incision open to air. Once the 
incision is completely dry, (usually ___ days after the 
operation) you may shower. Do not soak the incision in a bath or 
pool until fully healed. If the incision starts draining at any 
time after surgery, cover it with a sterile dressing. Please 
call the office. 
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.

MEDICATIONS: You should resume taking your normal home 
medications. Refrain from NSAIDs immediately post operatively.

You have also been given Additional Medications to control your 
post-operative pain. Please allow our office 72 hours for refill 
of narcotic prescriptions. Please plan ahead. You can either 
have them mailed to your home or pick them up at ___ Spine 
Specialists, ___. We are not able 
to call or fax narcotic prescriptions to your pharmacy. In 
addition, per practice policy, we only prescribe pain 
medications for 90 days from the date of surgery.

 
Followup Instructions:
___